US04590271
A. 5-(3-Allyloxy-4,5-dimethoxybenzyl)-2,4-diaminopyrimidine
The title compound was prepared from 2,4-diamino-5-(3-hydroxy-4,5-dimethoxybenzyl)pyrimidine (20.0 g, 72.4 mmol) and allyl bromide by the procedure of Example 1A. Recrystallization from 95% ethanol gave title compound as white crystals (14.9 g); mp 160°-162°. Anal. Calcd for C16H20N4O3 : C, 60.74; H, 6.37; N, 17.71. Found: C, 60.94; H, 6.45; N, 17.62.

reactant | 2,4-diamino-5-(3-hydroxy-4,5-dimethoxybenzyl)pyrimidine | 72.4 mmol, 20.0 g | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)OC)O | C13H16N4O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 5-(3-Allyloxy-4,5-dimethoxybenzyl)-2,4-diaminopyrimidine | 14.9 g | C(C=C)OC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1OC)OC | C16H20N4O3
